US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 59 μL (0.55 mmol) of 3-methylaniline. After purification by chromatography on silica (eluent dichloromethane/methanol 96/4) then trituration in diethyl ether, 45 mg (23%) of 4-oxo-8-m-tolylsulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3-methylaniline | 0.55 mmol, 59 μL | CC=1C=C(N)C=CC1 | C7H9N
product | 4-oxo-8-m-tolylsulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 45 mg, 23% | O=C1NC=2C=CC(=CC2C2=C1NC=C2)S(NC=2C=C(C=CC2)C)(=O)=O.C(C)C(=O)[O-] | InChI=1S/C18H15N3O3S.C3H6O2/c1-11-3-2-4-12(9-11)21-25(23,24)13-5-6-16-15(10-13)14-7-8-19-17(14)18(22)20-16;1-2-3(4)5/h2-10,19,21H,1H3,(H,20,22);2H2,1H3,(H,4,5)/p-1
